US07425634B2
(42a) 2-oxobutyl benzoate
A mixture of 1-bromobutan-2-one (7.2 g, 47.7 mmol), sodium benzoate (7.56 g, 52.4 mmol), and N,N-dimethylformamide (72 ml) was stirred at room temperature for 3 hours and 45 minutes. Diethyl ether was added to the reaction mixture and the mixture was washed with water and a saturated saline solution, dried over magnesium sulfate, and filtrated. The filtrate was concentrated under reduced pressure to obtain the title compound (9.5 g, quantitatively) as a light brown oil.

reactant | 1-bromobutan-2-one | 47.7 mmol, 7.2 g | BrCC(CC)=O | C4H7BrO
reactant | sodium benzoate | 52.4 mmol, 7.56 g | C(C1=CC=CC=C1)(=O)[O-].[Na+]
reactant | N,N-dimethylformamide | 72 ml | CN(C=O)C | C3H7NO
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 2-oxobutyl benzoate | C(C1=CC=CC=C1)(=O)OCC(CC)=O | C11H12O3
